US07446118B2
3-(5-Methoxy-1H-indol-7-yl)-3-phenyl-acrylic acid ethyl ester CLXXIX was prepared from 5-methoxy-7-bromo-1H-indole and 3-pyridin-2-yl-acrylic acid ethyl ester using the procedure described for preparation of 3-(3-Cyano-1H-Indol-4-yl)-3-phenyl-acrylic acid ethyl ester LVIII (Example 14).

reactant | 5-methoxy-7-bromo-1H-indole | COC=1C=C2C=CNC2=C(C1)Br | C9H8BrNO
reactant | 3-pyridin-2-yl-acrylic acid ethyl ester | C(C)OC(C=CC1=NC=CC=C1)=O | C10H11NO2
reactant | 3-(3-Cyano-1H-Indol-4-yl)-3-phenyl-acrylic acid ethyl ester | C(C)OC(C=C(C1=CC=CC=C1)C1=C2C(=CNC2=CC=C1)C#N)=O | C20H16N2O2
product | 3-(5-Methoxy-1H-indol-7-yl)-3-phenyl-acrylic acid ethyl ester | C(C)OC(C=C(C1=CC=CC=C1)C=1C=C(C=C2C=CNC12)OC)=O | C20H19NO3
